US09029531B2
Step B: tert-butyl 4-(3-(2-methoxy-2-oxoethyl)phenyl)piperidine-1-carboxylate
The solution of tert-butyl 4-(3-(2-methoxy-2-oxoethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate (330 mg, 1.0 mmol) and Pd/C (30 mg) in methanol (10 mL) was stirred under H2 at room temperature for 12 h. Then, the reaction mixture was filtered and evaporated under reduced pressure to get desired product for the next step without further purification. LC-MS: m/z (M+H)=334.4

reactant | tert-butyl 4-(3-(2-methoxy-2-oxoethyl)phenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 1.0 mmol, 330 mg | COC(CC=1C=C(C=CC1)C1=CCN(CC1)C(=O)OC(C)(C)C)=O | C19H25NO4
solvent | methanol | 10 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | tert-butyl 4-(3-(2-methoxy-2-oxoethyl)phenyl)piperidine-1-carboxylate | COC(CC=1C=C(C=CC1)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C19H27NO4
